US07629336B2
Biphenyl-2-ylcarbamic Acid 1-[2-(Benzylmethylamino)ethyl]piperidin-4-yl Ester
The title compound was prepared by mesylation of N-benzyl-N-methyl ethanolamine, which was then reacted with biphenyl-2-ylcarbamic acid piperidin-4-yl ester in an alkylation reaction.

reactant | N-benzyl-N-methyl ethanolamine | C(C1=CC=CC=C1)N(CCO)C | C10H15NO
reactant | biphenyl-2-ylcarbamic acid piperidin-4-yl ester | N1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O | C18H20N2O2
product | Biphenyl-2-ylcarbamic Acid 1-[2-(Benzylmethylamino)ethyl]piperidin-4-yl Ester | C(C1=CC=CC=C1)CNCCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O | C28H33N3O2
